US08008505B2
25.1 2-(3-Fluoro-4-nitro-phenoxy)-2-methyl-propionic acid ethyl ester
Potassium carbonate (3.96 g, 29 mmol) and 2-bromo-2-methylpropanoic acid ethyl ester (4.47 g, 23 mmol; CAS Reg. No. 600-00-0) were added to a solution of 3-fluoro-4-nitrophenol (3 g, 19 mmol; CAS Reg. No. 394-41-2) in DMSO (50 ml). The mixture was stirred for 18 h at 100° C. 10% aqueous citric acid and EtOAc were added and the layers were separated. The organic layer was washed with brine and dried over MgSO4. The solid was filtered off and the filtrate concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, EtOAc/heptane) to obtain the title compound (1.19 g, 4.4 mmol; 23%) as yellow oil.

reactant | Potassium carbonate | 29 mmol, 3.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-2-methylpropanoic acid ethyl ester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | 3-fluoro-4-nitrophenol | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-Fluoro-4-nitro-phenoxy)-2-methyl-propionic acid ethyl ester | 4.4 mmol, 1.19 g, 23% | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C12H14FNO5
